US09403832B2
5.6.11. Synthesis of (S)-tert-butyl 2-(((3-(2-ethylphenyl)pyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate
The Suzuki coupling of (S)-tert-butyl 2-(((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate with (2-ethylphenyl)boronic acid under the same conditions as described in example 5.6.5 to give 77% of the titled compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.20 (t, J=7.58 Hz, 3 H) 1.49 (s, 9 H) 1.79-1.95 (m, 3 H) 1.95-2.05 (m, 1H) 2.82 (q, J=7.58 Hz, 2 H) 3.34-3.44 (m, 3 H) 3.44-3.53 (m, 1 H) 4.15 (br. s., 1 H) 6.08 (d, J=6.82 Hz, 1 H) 7.23-7.31 (m, 3 H) 7.32-7.38 (m, 1 H) 7.51 (dd, J=7.20, 1.39 Hz, 1 H) 7.91 (s, 1 H) 8.20 (d, J=6.32 Hz, 1H); LRMS (ESI) m/e 422.0 [(M+H)+, calcd for C24H31N5O2 421.0].

reactant | (S)-tert-butyl 2-(((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate | BrC=1C=NN2C1N=C(C=C2)NC[C@H]2N(CCC2)C(=O)OC(C)(C)C | C16H22BrN5O2
reactant | (2-ethylphenyl)boronic acid | C(C)C1=C(C=CC=C1)B(O)O | C8H11BO2
product | (S)-tert-butyl 2-(((3-(2-ethylphenyl)pyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate | 77% | C(C)C1=C(C=CC=C1)C=1C=NN2C1N=C(C=C2)NC[C@H]2N(CCC2)C(=O)OC(C)(C)C | C24H31N5O2
